US08937092B2
To a stirred solution of (2-fluoro-4-nitrophenyl)methanamine (194 mg, 1.140 mmol) in pyridine, cooled to 0° C., were added methanesulfonyl chloride (248 mg, 2.166 mmol). The resulting reaction mixture was stirred for 1 h at room temperature. The mixture was dissolved in dichloromethane and washed with 1N HCl. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. N-(2-Fluoro-4-nitrobenzyl)methanesulfonamide (250 mg) was obtained as 88% yield.

reactant | (2-fluoro-4-nitrophenyl)methanamine | 1.140 mmol, 194 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])CN | C7H7FN2O2
reactant | methanesulfonyl chloride | 2.166 mmol, 248 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Fluoro-4-nitrobenzyl)methanesulfonamide | 250 mg, 88% yield | FC1=C(CNS(=O)(=O)C)C=CC(=C1)[N+](=O)[O-] | C8H9FN2O4S
